US07910592B2
To a solution of 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]decane (590 mg, 2.38 mmol) in THF (20 mL) was added 6N HCl (1.2 mL). The reaction was stirred at room temperature for 4 hours and then diluted with EtOAc (50 mL) and washed with water (2×40 mL) and saturated NaHCO3/brine (2×40 mL, 1:1). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 25% EtOAc/hexanes) afforded 4-(4-methoxyphenyl)cyclohexanone. 1H NMR (600 MHz, CDCl3) δ 7.15-7.18 (m, 2H), 6.85-6.88 (m, 2H), 3.80 (s, 3H), 2.99 (m, 1H), 2.46-2.54 (m, 4H), 2.17-2.22 (m, 2H), 1.87-1.95 (m, 2H).

reactant | 8-(4-methoxyphenyl)-1,4-dioxaspiro[4.5]decane | 2.38 mmol, 590 mg | COC1=CC=C(C=C1)C1CCC2(OCCO2)CC1 | C15H20O3
reactant | HCl | 6N, 1.2 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(4-methoxyphenyl)cyclohexanone | COC1=CC=C(C=C1)C1CCC(CC1)=O | C13H16O2
